data/mechanism_extracts/OrgLett/10.1021_acs.orglett.8b03274.json
{"doi": "10.1021_acs.orglett.8b03274", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical oxidative amino- and oxyselenation of styrenes with diphenyl diselenide and amine or alcohol nucleophiles to give vicinal aminoselenides or oxyselenides under undivided-cell, metal- and oxidant-free conditions", "mechanism_family": ["radical_anodic", "radical_cathodic", "paired_electrolysis", "radical_polar_crossover"], "electrochemical_role": "Cathodic reduction of PhSeSePh generates PhSe• and PhSe-; anodic oxidation regenerates PhSe• from PhSe- (and/or oxidizes the styrene/benzylic radical to a benzylic cation); a parallel anodic path oxidizes PhSeSePh to a seleniranium-type intermediate that is attacked by NuH", "key_intermediates": [{"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenide anion (PhSe-)", "smiles": "[Se-]c1ccccc1", "role": "reactive"}, {"name": "β-(phenylseleno)benzylic radical B (from PhSe• addition to styrene)", "smiles": null, "role": "transient"}, {"name": "β-(phenylseleno)benzylic cation C (anodic oxidation of B)", "smiles": null, "role": "reactive"}, {"name": "cyclic seleniranium ion E (from PhSeSePh anodic oxidation)", "smiles": null, "role": "reactive"}, {"name": "ammonium/oxocarbenium adduct D (NuH attack on C)", "smiles": null, "role": "transient"}], "electron_flow": "At the cathode, PhSeSePh is reduced to PhSe• and PhSe- (with concomitant H2 evolution from ROH); PhSe• adds regioselectively to the styrene to give a benzylic radical B, which is further oxidized at the anode to benzylic cation C. Nucleophile (amine or alcohol) attacks C and deprotonation gives the 1,2-difunctionalized product 4; alternatively PhSeSePh is directly oxidized at the anode to a seleniranium ion E that is opened by NuH.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclopropyl-substituted styrene (radical clock)", "smiles": null, "purpose": "radical_clock", "observation": "ring-opened/retained product 8f formed (73%), consistent with a carbon-radical intermediate from PhSe• addition"}, {"name": "diphenyl diselenide (PhSeSePh) - CV", "smiles": "c1ccc(cc1)[Se][Se]c1ccccc1", "purpose": "redox_probe", "observation": "oxidation peak at 1.88 V and reduction peak at -1.74 V; indicates both anodic and cathodic involvement"}, {"name": "styrene 1a - CV", "smiles": "C=Cc1ccccc1", "purpose": "redox_probe", "observation": "oxidation peak observed at 2.25 V"}, {"name": "benzotriazole 5a - CV", "smiles": "c1ccc2[nH]nnc2c1", "purpose": "redox_probe", "observation": "no obvious oxidation peak, ruling out direct anodic oxidation of the N-nucleophile"}], "evidence_types_used": ["cyclic_voltammetry", "radical_clock"], "evidence_strength": "medium", "notes": "Two parallel anodic pathways are proposed: (i) anodic oxidation of the β-selenyl benzylic radical B to cation C followed by NuH addition (favored), and (ii) anodic oxidation of PhSeSePh to a cyclic seleniranium intermediate E that is opened by NuH. H2 evolution from ROH at the cathode is part of the paired electrolysis. No TEMPO/BHT trapping or KIE was reported."}
